US09403807B2
Step D: 1-(2-(4-Chlorophenyl)-1-methoxybutan-2-yl)-4-(2,5-dimethyl-1H-pyrrol-1-yl)-1H-indole
A solution of 2-(4-chlorophenyl)-2-(4-(2,5-dimethyl-1H-pyrrol-1-yl)-1H-indol-1-yl)butan-1-ol (89 mg) in dry DMF (3 mL) was treated by NaH (60% in oil, 18 mg) at 0° C. for 30 min, then was added iodomethane (97 mg). The mixture was stirred at room temperature for 2 h. The solution was quenched with saturated ammonium chloride solution, and extracted with ethyl acetate (25 mL). The organic layers was washed with brine, dried over sodium sulfate, and evaporated to afford the title compound as a white solid. LC/MS m/z=407.1 [M+H]+.

reactant | 2-(4-chlorophenyl)-2-(4-(2,5-dimethyl-1H-pyrrol-1-yl)-1H-indol-1-yl)butan-1-ol | 89 mg | ClC1=CC=C(C=C1)C(CO)(CC)N1C=CC2=C(C=CC=C12)N1C(=CC=C1C)C | C24H25ClN2O
reactant | NaH | 18 mg | [H-].[Na+]
reactant | iodomethane | 97 mg | IC | CH3I
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 1-(2-(4-Chlorophenyl)-1-methoxybutan-2-yl)-4-(2,5-dimethyl-1H-pyrrol-1-yl)-1H-indole | ClC1=CC=C(C=C1)C(COC)(CC)N1C=CC2=C(C=CC=C12)N1C(=CC=C1C)C | C25H27ClN2O
